US06562823B1
Step A: Preparation of 2-[2-(Benzyloxy)phenyl]-5-chloronitrobenzene
To a solution of 2-(benzyloxy)phenol (4.2736 g, 21.34 mmol) and 2,5-dichloronitrobenzene (4.302 g, 22.41 mmol) in 40 mL of DMSO was added cesium carbonate (13.8 g, 42.7 mmol). The reaction was heated to 70° C. under argon for one hour, then cooled to room temperature. The solution was poured into EtOAc, washed with water, sat. aq. NaHCO3 and brine, dried (Na2SO4), filtered, and concentrated in vacuo. The titled product was obtained as a brown oil.

reactant | 2-(benzyloxy)phenol | 21.34 mmol, 4.2736 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)O | C13H12O2
reactant | 2,5-dichloronitrobenzene | 22.41 mmol, 4.302 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | cesium carbonate | 42.7 mmol, 13.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 2-[2-(Benzyloxy)phenyl]-5-chloronitrobenzene | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C19H14ClNO3
